datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)CCC([NH3+])C(=O)[O:21][H:20].CCCCNc1cc[nH+]c([S-:10])n1>>CC(C)CCC([NH3+])C(=O)[O-:21].CCCCNc1cc[nH+]c([S:10][H:20])n1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCCCCCC[NH2:10].Nc1cccc2c[n+:21]([H:20])cnc12>>CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20].Nc1cccc2c[n:21]cnc12 10=20;20,21=21",
"CC(C)([Se-])C[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)([Se-])C[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])/C=C/c1ccccc1[O-:10].c1ccc(-c2ccccc2[NH2+:21][H:20])cc1>>O=C([O-])/C=C/c1ccccc1[O:10][H:20].c1ccc(-c2ccccc2[NH2:21])cc1 10=20;20,21=21",
"C=C(C)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].COC1=CC=C([O:21][H:20])C(=O)C=C1>>C=C(C)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].COC1=CC=C([O-:21])C(=O)C=C1 10=20;20,21=21",
"CN(C)c1cc[nH+]c2c([O:21][H:20])cccc12.O/C(=C\c1cccc[n:10]1)c1ccccc1>>CN(C)c1cc[nH+]c2c([O-:21])cccc12.O/C(=C\c1cccc[n+:10]1[H:20])c1ccccc1 10=20;20,21=21",
"CC[NH:10]Cc1ccc(C)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O:21][H:20].Cc1ccccc1C(=O)[O-:10]>>CCCCCCCC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O-:21].Cc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cnc2c[n+:21]([H:20])cnc2n1.NC(=O)[C@@H](O)[C@H](N)C(=O)[O-:10]>>Cc1cnc2c[n:21]cnc2n1.NC(=O)[C@@H](O)[C@H](N)C(=O)[O:10][H:20] 10=20;20,21=21",
"COC(=O)c1ccc2c(ccc[n:10]2)c1.c1ccc(CO[n+]2ccccc2[O:21][H:20])cc1>>COC(=O)c1ccc2c(ccc[n+:10]2[H:20])c1.c1ccc(CO[n+]2ccccc2[O-:21])cc1 10=20;20,21=21",
"c1cc2c(c([NH2+:21][H:20])c1)CCCC2.c1co[n:10]c1>>c1cc2c(c([NH2:21])c1)CCCC2.c1co[n+:10]([H:20])c1 10=20;20,21=21",
"CN(C)c1ncnc2nc[n-:10]c12.c1ccc2c(c1)C1CC[N+:21]2([H:20])CC1>>CN(C)c1ncnc2nc[n:10]([H:20])c12.c1ccc2c(c1)C1CC[N:21]2CC1 10=20;20,21=21",
"CCCC(C)C1C(=O)[N-:10]C(=S)N=C1[O-].O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N:21]1[H:20]>>CCCC(C)C1C(=O)[N:10]([H:20])C(=S)N=C1[O-].O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N-:21]1 10=20;20,21=21",
"CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N-:10]c1nccs1.N/C(NCc1ccccc1)=[S+:21]/[H:20]>>CCOP(=O)(c1ccc([N+](=O)[O-])cc1)[N:10](c1nccs1)[H:20].NC(NCc1ccccc1)=[S:21] 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)[NH+:10](CC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C[N+](C)(C)c1ccc([O-:10])cc1.NC(=S=[O+:21][H:20])c1ccccc1>>C[N+](C)(C)c1ccc([O:10][H:20])cc1.NC(=S=[O:21])c1ccccc1 10=20;20,21=21",
"Nc1cn[n+:21]([H:20])c2ccccc12.c1c[nH+]c2ccc3ccc[n:10]c3c2c1>>Nc1cn[n:21]c2ccccc12.c1c[nH+]c2ccc3ccc[n+:10]([H:20])c3c2c1 10=20;20,21=21",
"CCc1c[n+:21]([H:20])ccc1N.O=C1C=CC=CC([O-:10])=C1[O-]>>CCc1c[n:21]ccc1N.O=C1C=CC=CC([O:10][H:20])=C1[O-] 10=20;20,21=21",
"CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O-:10])cc1.C[O+:21](c1ccccc1)[H:20]>>CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O:10][H:20])cc1.C[O:21]c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(CO)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(CO)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)N1CS(=O)CC1C(=O)[O:21][H:20].C[NH+](C)CC[NH:10]CC[NH+](C)C>>CC(=O)N1CS(=O)CC1C(=O)[O-:21].C[NH+](C)CC[NH+:10](CC[NH+](C)C)[H:20] 10=20;20,21=21",
"C[NH+](C)CCCNc1cc[n+:21]([H:20])c2ccc([N+](=O)[O-])cc12.Nc1nc(N)[nH+]c([O-:10])n1>>C[NH+](C)CCCNc1cc[n:21]c2ccc([N+](=O)[O-])cc12.Nc1nc(N)[nH+]c([O:10][H:20])n1 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[N:21](C(N)=O)[H:20].CN1CCC[N:10](C)Cc2ccccc2OCCOc2ccccc2C1>>CC(C(N)=O)S(=O)(=O)[N-:21]C(N)=O.CN1CCC[N+:10](C)([H:20])Cc2ccccc2OCCOc2ccccc2C1 10=20;20,21=21",
"C[NH+](C)CCNCC[N:10](C)C.Cc1cc(O)c([NH2+:21][H:20])cc1C>>C[NH+](C)CCNCC[N+:10](C)(C)[H:20].Cc1cc(O)c([NH2:21])cc1C 10=20;20,21=21",
"Clc1cccc2ccc([O-:10])cc12.Nc1nc(N)c2[nH]c(N)[n+:21]([H:20])c2n1>>Clc1cccc2ccc([O:10][H:20])cc12.Nc1nc(N)c2[nH]c(N)[n:21]c2n1 10=20;20,21=21",
"OCCNC1CC[N+:21](Cc2ccccc2)([H:20])CC1.c1cc([N:10]2CCOCC2)ccc1N1CCOCC1>>OCCNC1CC[N:21](Cc2ccccc2)CC1.c1cc([N+:10]2([H:20])CCOCC2)ccc1N1CCOCC1 10=20;20,21=21",
"C#[N+][O:21][H:20].O=C1C=Cc2cc(O)c([O-:10])cc2O1>>C#[N+][O-:21].O=C1C=Cc2cc(O)c([O:10][H:20])cc2O1 10=20;20,21=21",
"Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1N.Cc1nc2ncncc2[n-:10]1>>Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1N.Cc1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O:10].CC(C)(C)CC(=O)n1cc(Br)[n+:21]([H:20])c1>>CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O+:10][H:20].CC(C)(C)CC(=O)n1cc(Br)[n:21]c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC[NH2+]CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
